US06699904B2
A solution of 2-ethoxy-3-{4-[2-(heptyl-p-tolylacetyl-amino)-ethyl]-phenyl}-propionic acid methyl ester (21 mg, 0.044 mmol) and 1 M LiOH (0.131 mmol, 0.131 mL) in tetrahydrofuran (1 mL) was allowed to stir at room temperature for 24 hours. 2 N HCL was then added until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to give 2-ethoxy-3-{4-[2-(heptyl-p-tolylacetyl-amino)-ethyl]-phenyl}-propionic acid as a clear oil (19.5 mg, 95%).

reactant | 2-ethoxy-3-{4-[2-(heptyl-p-tolylacetyl-amino)-ethyl]-phenyl}-propionic acid methyl ester | 0.044 mmol, 21 mg | COC(C(CC1=CC=C(C=C1)CCN(C(CC1=CC=C(C=C1)C)=O)CCCCCCC)OCC)=O | C30H43NO4
reactant | LiOH | 0.131 mmol, 1 M, 0.131 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-ethoxy-3-{4-[2-(heptyl-p-tolylacetyl-amino)-ethyl]-phenyl}-propionic acid | 19.5 mg, 95% | C(C)OC(C(=O)O)CC1=CC=C(C=C1)CCN(C(CC1=CC=C(C=C1)C)=O)CCCCCCC | C29H41NO4
